US07534813B2
Step C: 2-Hydroxy-3-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate hydrochloride
2-Hydroxy-3-phenylcarbonyloxypropyl (2S)-3-(3,4-dihydroxyphenyl)-2-[(tert-butoxy)carbonylamino]propanoate (2.05 g, 4.3 mmol) was treated with 4.0M HCl in 1,4-dioxane at room temperature for 30 min. The reaction mixture was concentrated to dryness under reduced pressure and purified by prep-HPLC. The HPLC fractions were pooled, treated with 10 mL of 0.5N HCl, and dried by lyophilization to yield 0.85 g (48%) of the title compound as a white solid. 1H NMR (400 MHz, D2O): δ 3.11 (t, J=6.6 Hz, 2H), 4.38-4.44 (m, 6H), 6.60 (dd, J=2.2, 7.8 Hz, 1/2H), 6.61 (dd, J=2.4, 8.0 Hz, 1/2H), 6.70 (d, J=2.0 Hz, 1/2H), 6.71 (d, J=2.0 Hz, 1/2H), 6.77 (d, J=8.0 Hz, 1/2H), 6.78 (d, J=8.0 Hz, 1/2H), 7.46-7.52 (m, 2H), 7.60-7.68 (m, 1H), 7.96-8.02 (m, 2H); MS (ESI) m/z 376.15 (M+H)+.

reactant | 2-Hydroxy-3-phenylcarbonyloxypropyl (2S)-3-(3,4-dihydroxyphenyl)-2-[(tert-butoxy)carbonylamino]propanoate | 4.3 mmol, 2.05 g | OC=1C=C(C=CC1O)C[C@@H](C(=O)OCC(COC(=O)C1=CC=CC=C1)O)NC(=O)OC(C)(C)C | C24H29NO9
reactant | HCl | 4.0M | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-Hydroxy-3-phenylcarbonyloxypropyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate hydrochloride | 0.85 g, 48% | Cl.N[C@H](C(=O)OCC(COC(=O)C1=CC=CC=C1)O)CC1=CC(=C(C=C1)O)O | InChI=1S/C19H21NO7.ClH/c20-15(8-12-6-7-16(22)17(23)9-12)19(25)27-11-14(21)10-26-18(24)13-4-2-1-3-5-13;/h1-7,9,14-15,21-23H,8,10-11,20H2;1H/t14?,15-;/m0./s1
